US07662825B2
2,3-Dichloro-N-[5-m ethyl-3-(4-pyridinylmethoxy)-2-pyrazinyl]benzenesulphonamide
Prepared by the method of Example 20 using pyridine-4-methanol (0.05 g) and N-(3-bromo-5-methyl-2-pyrazinyl)-2,3-dichlorobenzenesulphonamide (0.1 g). Yield 0.009 g.

reactant | pyridine-4-methanol | 0.05 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | N-(3-bromo-5-methyl-2-pyrazinyl)-2,3-dichlorobenzenesulphonamide | 0.1 g | BrC=1C(=NC=C(N1)C)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl | C11H8BrCl2N3O2S
product | 2,3-Dichloro-N-[5-m ethyl-3-(4-pyridinylmethoxy)-2-pyrazinyl]benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1OCC1=CC=NC=C1)C | C17H14Cl2N4O3S
